* /home/wiley/Projects/geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-anise TwoStageAmp.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-anise version 2015.08.08                        *
*********************************************************
*vvvvvvvv  Included SPICE from ./models/2N3904.mod vvvvvvvv
.model 2N3904   NPN(Stuff
+               More stuff
+               Yet more stuff
+               Final line of stuff)
*^^^^^^^^  End of included SPICE from ./models/2N3904.mod ^^^^^^^^
*
*============== Begin SPICE netlist of main design ============
C2 2 Vbase2 2.2uF 
R4 0 Vbase2 2.8K 
R3 Vbase2 VCC 28K 
R8 Vcoll1 2 1 
CE2 0 Vem2 1pF 
RE2 0 Vem2 100 
RC1 Vcoll1 VCC 3.3K 
Q2 VColl2 Vbase2 Vem2 2N3904 
C1 1 Vbase1 2.2uF 
.options TEMP=25
.INCLUDE ./Simulation.cmd
VCC VCC 0 DC 15V
Vinput Vin 0 DC 1.6V AC 10MV SIN(0 1MV 1KHZ)
CE1 0 Vem1 1pF 
Cout VColl2 Vout 2.2uF 
RL 0 Vout 100K 
RC2 VColl2 VCC 1K 
RE1 0 Vem1 100 
R2 0 Vbase1 2K 
R1 Vbase1 VCC 28K 
R5 Vin 1 10 
Q1 Vcoll1 Vbase1 Vem1 2N3904 
.end
